US05998470
a) N-benzyloxycarbonyl-L-leucinamide
To a stirring solution of N-benzyloxycarbonyl-L-leucine (4.6 g, 17.3 mmol) in THF, cooled to -40° C., was added N-methylmorpholine (3.68 g, 36.4 mmol; 4.0 mL) and isobutyl chloroformate (2.37 g, 17.3 mmol; 2.25 mL). After stirring for 15 min, ammonia was bubbled through the solution for 5 min. The solution was warmed to room temperature, evaporated, and the residue was dissolved in ethyl acetate, washed with 0.1 N Hcl, and saturated brine, then dried (MgSO4), filtered and evaporated to dryness to give the title compound as a white solid (4.58 g, 100%).

reactant | N-benzyloxycarbonyl-L-leucine | 17.3 mmol, 4.6 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | N-methylmorpholine | 36.4 mmol, 4.0 mL, 3.68 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 17.3 mmol, 2.25 mL, 2.37 g | ClC(=O)OCC(C)C | C5H9ClO2
solvent | THF | C1CCOC1 | C4H8O
product | N-benzyloxycarbonyl-L-leucinamide | 4.58 g, 100% | C(C1=CC=CC=C1)OC(=O)NC([C@@H](N)CC(C)C)=O | C14H20N2O3
